Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Augmentin
 
Attending: ___.
 
Chief Complaint:
Status post fall
 
Major Surgical or Invasive Procedure:
None

Echocardiogram: The left atrium is moderately dilated. There is 
mild symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Overall left ventricular 
systolic function is normal (LVEF 70%). There is no left 
ventricular outflow obstruction at rest or with Valsalva. Right 
ventricular chamber size and free wall motion are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Mild (1+) mitral regurgitation is seen. There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

Compared with the findings of the prior report (images 
unavailable for review) of ___, no major change is 
evident.

Head CT: Left frontal scalp hematoma. No acute intracranial 
process.

CT cervical spine: 1. No fractures. 
2. Significant multilevel degenerative disease with posterior 
osteophytosis, impinging on the thecal sac, worst at C5-C6 

 
History of Present Illness:
___ year old woman coming in from a nursing home after an 
unwitnessed fall, the details of which she does not recall. In 
the ED she denied any precipitating symptoms but did not recall 
the details. To my exam she does not remember this at all. Found 
down w LOC; has left frontal hematoma; complaining of bilateral 
shoulder R>L pain. RN report from ___ states: "Resident was found 
lying on the floor in her room on her left side, has limited ROM 
on both shoulders, sustained hematoma on L forehead; ice 
applied, unable to tell how she fell due to her confusion, also 
c/o of excruciating pain R shoulder. VS 97.8, 56, 160/90, 14, 
96%RA." She seemed to be in a great deal of pain initially, head 
was negative; not on anticoagulation; c-spine no acute fxs but 
multilevel osteophytes, if concern MR of spine; ED tried to 
clear her collar, but pt continued to insist she has mid-line 
pain. 
 
Past Medical History:
left hip fx w ORIF, ___  
dementia of unknown source  
depression  
anxiety  
gait disorder w hx of falls  
hypothyroidism  
htn on atenolol  
cataracts  
CAD w past poss inferior/anterior ischemia  
spinal stenosis  
urinary incontinence, resolved  
CRI stage III  
___ fx of left rib  
RBBB, LAFB as of ___  

 
Social History:
___
Family History:
Non specific heart problems in both parents and 1 brother with a 
heart issue. A sister died from unknown cause. 
 
Physical Exam:
Exam at the time of discharge: 
VS: Tc:95.3, Tmax:99, HR:81, BP: 180/106 (132/95-180-106)RR:18, 
O2:98% on RA
Gen: NAD, sleeping in bed, stating pain is well controlled
Head: ecchymosis over left eye, tracking around her left eye
Neck: cervical collar in place
CV: bradycardic rate, regular rhythm, +S1/S2, ___ systolic 
murmur
Lungs: CTA b/l
Abd: +bs, soft, nontender, nondistended
Ext: no edema

 
Pertinent Results:
Troponin T <0.01, <0.___rief Hospital Course by Problem: 

#) Status post fall: on presentation to ___ patient was 
initially evaluated in the ER, and given that she had 
experienced an unwitnessed fall, she had multiple radiographic 
studies for furhter evaluation, CT of head showed no 
intracranial bleeding, CT of her cervical spine showed no 
fractures or dislocations, x-rays of her shoulders did not show 
any evidence of fracture.  Additionally in the ER, since her 
cervical spine had been cleared radiographically, they tried to 
clear her c-spine and take the cervical collar off but she 
complained of continued neck pain.  After speaking with 
neurosurgery, they recommended leaving the collar on for 2 weeks 
and then reassessing to see if her pain had resolved to take the 
collar off.  Patient can be seen by orthopedic surgery in two 
weeks for re-evaluation of the cervical collar.  Since the fall 
was unwitnessed and the patient was unable to give a good 
history, there was concern for the cause of this fall, patient 
was monitored on telemetry and also had an echocardiogram.  The 
echocardiogram was unchanged from prior studies, and while she 
was monitored on telemetry, it was noted that with reinitiation 
of her atenolol the patient's HR dropped to 35 while she was 
sleeping and then increased to the 40's when the nurses had 
woken her up.  Per nursing it was difficult to tell whether she 
was symptomatic since she seemed slightly confused at baseline.  
Given her decreased heart rate her atenolol was stopped and to 
control the patient's blood pressure, she was started on an ACE 
Inhibitor, lisinopril 10mg daily, that can be further titrated 
as an outpatient.  

#) Hypertension: Patient had previously been treated with 
atenolol 25mg daily, however given her very decreased HR, the 
medication was discontinued.  In the short term in the hospital 
she was controlled with 20mg po hydralazine, however for long 
term control she will be started on lisinopril 10mg daily, which 
can be titrated up as an outpatient.  Since she was just started 
on lisinopril, she will need to have her electrolytes checked in 
one week.

#) Dementia: remained stable in the hospital, continued her 
outpatient dose of aricept

#) Hypothyroid: currently being managed by her PCP, continued on 
her home synthroid dose

#) Osteoporosis: patient was continued on her calcium and 
vitamin D supplementation, however we would hold her 
bisphosphonate until the cervical collar is removed so that the 
patient can sit upright and take the medication safely. 

#) CAD: repeat echocardiogram showed no decline in LV systolic 
function, will continue aspirin but atenolol has been 
discontinued as patient's heart rate cannot tolerate beta 
blockade
 
Medications on Admission:
fosamax 70 mg ___  
asa 81 daily  
atenolol 25 q evening  
calcium carb 650 mg TID before meals  
vitamin d 1000 units daily  
aricept 5 mg HS  
levothyroxine 137.5 mcg  
lidocaine patch  
oxycontin 10 mg q morning, 20 mg q evening  
seroquel 37.5 mg qhs  
senna bid  
warm prune juice qAM  
opth ointment, apply to each eyelid x7 days (6 days given) 

 
Discharge Medications:
1. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day) as needed for before 
meals.  
2. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
3. Levothyroxine 137 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Donepezil 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
5. Lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
6. Quetiapine 25 mg Tablet Sig: 1.5 Tablets PO HS (at bedtime).  

7. Acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for pain.  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): Hold for loose stools .  
9. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): Hold for loose stools.  
10. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO QAM (once a day (in the 
morning)).  
11. Oxycodone 20 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO QPM (once a day (in the 
evening)).  
12. Lisinopril 10 mg PO Daily  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Status Post Mechanical Fall

 
Discharge Condition:
At the time of discharge, patient was able to ambulate with a 
walker, tolerate oral intake without difficulty, her heart had 
increased off atenolol, other vital signs were stable and she 
was medically clear for discharge. 

 
Discharge Instructions:
You were admitted to ___ after falling at the nursing home, 
when you arrived in the emergency room, multiple radiology 
studies were done, which showed that you did have any bleeding 
your head or any other broken bones.  However, since you were 
still complaining of neck pain, even though the CT scan of the 
bones in your neck was normal, they were unable to remove the 
cervical collar.  Since no one had seen you fall, we were 
concerned about caused the fall, as a result we also did an 
echocardiogram to look at the function of your heart and 
monitored the rhythm of your heart while you were in the 
hospital.  The only concerning finding during your 
hospitalization was that when we restarted your atenolol, your 
heart rate decreased into the 30's while you were sleeping, and 
only increased into the 40's when you were awake, as a result we 
stopped this medication since we were concerned that this could 
have contributed to your fall.   

Please call your doctor or return to the hospital if you have 
any other falls, experience a change in your vision, headaches, 
chest pain, palpitations or any other concerning symptoms.  
 
Followup Instructions:
___